US04596789
c. L-Leucine methyl ester isocyanate
A three-neck 1 liter round bottom flask, fitted with gas inlet, mechanical stirrer, reflux condenser and gas outlet connected to a 30% aqueous NaOH trap was charged with L-leucine methyl ester hydrochloride (61.0 g, 0.336 mmol) and dry toluene (250 ml). The mixture was heated to gentle reflux for 0.5 hr. while a vigorous stream of phosgene was continuously introduced. Following dissolution of the solids (0.5 hr.) phosgene was introduced for an additional 15 min. The product was isolated by initially removing the toluene under vacuum and fractionally distilling the remaining residue under vacuum to give the product (48.0 g), bp=71°-73° C. at 0.8 torr.

reactant | L-leucine methyl ester hydrochloride | 0.336 mmol, 61.0 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | L-Leucine methyl ester isocyanate | 48.0 g | [N-]=C=O.COC([C@@H](N)CC(C)C)=O | InChI=1S/C7H15NO2.CNO/c1-5(2)4-6(8)7(9)10-3;2-1-3/h5-6H,4,8H2,1-3H3;/q;-1/t6-;/m0./s1
